US04529736
A 30.9 g amount of 3,4-methylenedioxyaniline hydrochloride was dissolved in 90 ml of water and 40 ml of concentrated hydrochloric acid. The solution was cooled to 5° C. in an ice-salt bath and a solution of 12.3 g of sodium nitrite in 35 ml of water was added dropwise to the reaction mixture over a 25 minute period. A solution of 20.0 g of N-methylmaleimide and 2.4 g of cupric chloride in 150 ml of acetone was added to the reaction mixture portionwise with stirring. The reaction mixture temperature was maintained at 3° C. and the pH was adjusted to 3.2 by the addition of about 30 g of sodium bicarbonate. After standing at room temperature for 16 hours the mixture was filtered to collect a black solid. The solid was dried. Then the solid was dissolved in 500 ml of isopropanol containing 19.5 g of 2,6-lutidine. The mixture was heated to boiling and filtered hot to collect 4.8 g of isoluble material. The filtrate was cooled and an additional 2.6 g of precipitate was collected. This filtrate was reduced in volume to 200 ml and cooled and filtered to collect 2.7 g more of precipitate. The final filtrate was diluted with water and filtered to collect 0.9 g of additional material. The precipitates were combined and subjected to preparative liquid chromatography using a silica gel column and ethyl acetate:hexane (1:1) as eluent. The second cut, 0.6 g was recrystallized from ethyl acetate to give 0.1 g of 3-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrrole-2,5-dione as a brown solid, mp 210°-215° C.

reactant | 3,4-methylenedioxyaniline hydrochloride | Cl.C1OC=2C=C(N)C=CC2O1
reactant | sodium nitrite | 12.3 g | N(=O)[O-].[Na+]
reactant | N-methylmaleimide | 20.0 g | CN1C(C=CC1=O)=O | C5H5NO2
reactant | sodium bicarbonate | about 30 g | C([O-])(O)=O.[Na+]
solvent | water | 90 ml | O | H2O
solvent | hydrochloric acid | 40 ml | Cl | ClH
solvent | water | 35 ml | O | H2O
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-(1,3-benzodioxol-5-yl)-1-methyl-1H-pyrrole-2,5-dione | 0.1 g | O1COC2=C1C=CC(=C2)C=2C(N(C(C2)=O)C)=O | C12H9NO4
